US06800629B2
In 2.0 L of dioxane was suspended 48.7 g of methyl 6-nitro-3-oxo-3,4-dihydro-2-pyrazinecarboxylate, to which were successively added 42.4 mL of N-ethyldiisopropylamine and 9.9 mL of methanol. Then, 122 mL of a 2.0 mol/L solution of trimethylsilyldiazomethane in hexane was added at room temperature, the mixture thus obtained was stirred at the same temperature as above for 15 hours, and the solvent was removed under reduced pressure. Then, 500 mL of ethyl acetate and 250 mL of water were added to the residue obtained above, pH was adjusted to 1.5 with 6 mol/L hydrochloric acid, and the organic layer was separated. The remaining aqueous layer was extracted with two 200 mL portions of ethyl acetate. All the organic layers were united, washed successively with 200 ml of water and 200 mL of saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by silica gel chromatography ]eluent: n-hexane:ethyl acetate=2:1] to obtain 24.3 g of methyl 3-methoxy-6-nitro-2-pyrazinecarboxylate as a solid product.

reactant | methyl 6-nitro-3-oxo-3,4-dihydro-2-pyrazinecarboxylate | 48.7 g | [N+](=O)([O-])C1=CNC(C(=N1)C(=O)OC)=O | C6H5N3O5
reactant | N-ethyldiisopropylamine | 42.4 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | dioxane | 2.0 L | O1CCOCC1 | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | methanol | 9.9 mL | CO | CH4O
product | methyl 3-methoxy-6-nitro-2-pyrazinecarboxylate | 24.3 g | COC=1C(=NC(=CN1)[N+](=O)[O-])C(=O)OC | C7H7N3O5
